US07842688B2
b) 1-(4-Bromobutoxy)-2-ethylbenzene
The solution of 19.04 ml of 2-ethylphenol in 24 ml of 1,4-dibromobutane is heated to 100° C. with stirring and admixed slowly with 99.2 ml of 1.6M NaOH. The emulsion is stirred at 100° C. over 20 h. The reaction mixture is cooled and extracted with tert-butyl methyl ether (2×150 ml). The organic phases are washed successively with 2M NaOH (1×150 ml), water (1×150 ml) and brine (1×150 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a slightly yellowish oil from the residue by means of distillation. b.p. 132° C. (1.1 mbar); Rt=5.75.

reactant | 2-ethylphenol | 19.04 ml | C(C)C1=C(C=CC=C1)O | C8H10O
reactant | NaOH | 1.6M, 99.2 ml | [OH-].[Na+]
reactant | 1,4-dibromobutane | 24 ml | BrCCCCBr | C4H8Br2
product | 1-(4-Bromobutoxy)-2-ethylbenzene | BrCCCCOC1=C(C=CC=C1)CC | C12H17BrO
